US07723368B2
Step 4) 1-difluoromethoxy-4-{3-[3-(2-methoxy-ethyl)-cyclobutyl]phenyl-ethynyl}benzene
{3-[3-(2-methoxy-ethyl)-cyclobutyl]-phenylethynyl}-triisopropyl-silane (1.00 g, 2.70 mmol) was dissolved in THF (5 ml) and treated with a 1M solution of tetrabutylammonium fluoride (TBAF) in THF (5 ml) at room temperature. The crude product obtained from aqueous work-up was placed in a CEM snap top microwave vial and combined with 1-Bromo-4-Difluoromethoxybenzene (1.20 gm, 5.38 mmol), copper iodide (70 mg, 0.262 mmol), tetrakis(triphenylphosphine)palladium (140 mg, 0.120 mmol) and triethylamine (5.8 g, 98 mmol). The vial was quickly agitated then irradiated in a CEM Explorer™ microwave instrument for 30 minutes at 80° C. Purification by column chromatography (gradient; 0%-10% EtOAc in hexanes) afforded an oil 882 mg (46%). This material was used in next step without further characterization.

reactant | {3-[3-(2-methoxy-ethyl)-cyclobutyl]-phenylethynyl}-triisopropyl-silane | 2.70 mmol, 1.00 g | COCCC1CC(C1)C=1C=C(C=CC1)C#C[Si](C(C)C)(C(C)C)C(C)C | C24H38OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-Bromo-4-Difluoromethoxybenzene | 5.38 mmol, 1.20 gm | BrC1=CC=C(C=C1)OC(F)F | C7H5BrF2O
reactant | triethylamine | 98 mmol, 5.8 g | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.262 mmol, 70 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 0.120 mmol, 140 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-difluoromethoxy-4-{3-[3-(2-methoxy-ethyl)-cyclobutyl]phenyl-ethynyl}benzene | 882 mg, 46% | FC(OC1=CC=C(C=C1)C#CC1=CC(=CC=C1)C1CC(C1)CCOC)F | C22H22F2O2
